US09056859B2
Step C: 5-Fluoro-1-(piperazin-1-ylmethyl)-2,3-dihydro-1H-indene-4-carbonitrile
A solution of 5-Fluoro-1-(hydroxymethyl)-2,3-dihydro-1H-indene-4-carbonitrile (20 mg, 0.105 mmol) in DCM was treated with Dess-MartinPeriodinane (89 mg, 0.209 mmol) in DCM. When TLC showed the reaction was done, Na2S2O3 was added to the reaction. The solution was stirred vigorously until the two layers turned clear. The mixture was extracted with DCM, and the DCM layer was washed with Na2CO3 and brine, dried over sodium sulfate, and concentrated. The resulting oil was then treated with N-Boc-piperazine (39.0 mg, 0.209 mmol) and Sodium Cyanoborohydride (33 mg, 0.52 mmol) in DCM with a few drops of HOAc. LC showed complete reaction within 6 hours. The reductive amination adduct was then purified by MPLC. Finally, the Boc group was removed by treating the carbamate with 4N HCl in dioxane. After removal of solvent, the title material was obtained. LC-MS (IE, m/z): 260 [M+1]+.

reactant | 5-Fluoro-1-(hydroxymethyl)-2,3-dihydro-1H-indene-4-carbonitrile | 0.105 mmol, 20 mg | FC1=C(C=2CCC(C2C=C1)CO)C#N | C11H10FNO
reactant | Dess-MartinPeriodinane | 0.209 mmol, 89 mg | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | N-Boc-piperazine | 0.209 mmol, 39.0 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | Sodium Cyanoborohydride | 0.52 mmol, 33 mg | C(#N)[BH3-].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | HOAc | a few drops | CC(=O)O | C2H4O2
product | 5-Fluoro-1-(piperazin-1-ylmethyl)-2,3-dihydro-1H-indene-4-carbonitrile | FC1=C(C=2CCC(C2C=C1)CN1CCNCC1)C#N | C15H18FN3
